US04138485
Preparation of N-(4-hydroxybenzylthiocarbonyl)-L-phenylalanine methylester
3 Ml of thionyl chloride was dropwise added to 100 ml of anhydrous methanol at a temperature below -10° C. To the mixture was added 6 g (0.016 mol) of N-(4-acetoxybenzylthiocarbonyl)-L-phenylalanine synthesized according to Example 3. After the mixture was stirred at room temperature overnight, the solvent was evaporated under reduced pressure to obtain crude crystal. Further, the crude crystal was recrystallized from 30 ml ethyl acetate and 100 ml of n-hexane to obtain 5.1 g of white purified crystal.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-(4-acetoxybenzylthiocarbonyl)-L-phenylalanine | 0.016 mol, 6 g | C(C)(=O)OC1=CC=C(CC(=S)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C19H19NO4S
reactant | methanol | 100 ml | CO | CH4O
product | N-(4-hydroxybenzylthiocarbonyl)-L-phenylalanine methylester | COC([C@@H](NC(=S)CC1=CC=C(C=C1)O)CC1=CC=CC=C1)=O | C18H19NO3S
